US05723468
To a heterogeneous mixture of 3-amino-2-chloro-4-methylaminopyridine (5.9 g, 37 mmol) and triethyl orthoformate (12.92 mL, 87.2 mmol) was added 5 drops of conc. H2SO4. A short path distillation apparatus was attached. The reaction flask was lowered into a hot oil bath and stirred at 110° C. to 190° C. The time spent heating was 20-25 minutes. On cooling, the thick residue was dissolved in CH2Cl2 (40 mL) and was allowed to stir overnight with a little CaO. The solid was removed by filtration and the filtrate was concentrated. Flash chromatography on silica gel eluting with (CH2Cl2 /CH3OH, 95:5) gave 5.65 g (91%) of 4-chloro-1-methyl-1H-imidazo[4,5-c]pyridine as a light yellow solid: mp 127°-131° C.; MS 167 (M+).

reactant | 3-amino-2-chloro-4-methylaminopyridine | 37 mmol, 5.9 g | NC=1C(=NC=CC1NC)Cl | C6H8ClN3
reactant | triethyl orthoformate | 87.2 mmol, 12.92 mL | C(OCC)(OCC)OCC | C7H16O3
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
product | 4-chloro-1-methyl-1H-imidazo[4,5-c]pyridine | 5.65 g, 91% | ClC1=NC=CC2=C1N=CN2C | C7H6ClN3
